US06048885
N,N-Dimethylformamide dimethylacetal (0.53 g, 4.5 mmol) was added to 2-(4-chlorophenoxymethyl)-α-methoxyiminophenylacetamide (0.48 g, 1.5 mmol), and the mixture was stirred under reduced pressure (ca. 40 mmHg) at 60° C. for 0.5 hours. After completion of the reaction, the mixture was concentrated under reduced pressure, and a mixture of aqueous 50% hydroxylamine solution (0.20 g, 2 mmol) and acetic acid (3 ml) was added to the residue under ice-cooling. The mixture was stirred at room temperature for 1 hour. After completion of the reaction, ethyl acetate (150 ml) was added, and the mixture was washed with saturated aqueous sodium bicarbonate solution (100 ml) twice. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give 2-(4-chlorophenoxymethyl)-N-hydroxyaminomethylene-α-methoxyiminophenylacetamide (0.41 g, 75.6%) as colorless crystals.

reactant | N,N-Dimethylformamide dimethylacetal | 4.5 mmol, 0.53 g | COC(N(C)C)OC | C5H13NO2
reactant | 2-(4-chlorophenoxymethyl)-α-methoxyiminophenylacetamide | 1.5 mmol, 0.48 g | ClC1=CC=C(OCC2=C(C=CC=C2)C(C(=O)N)=NOC)C=C1 | C16H15ClN2O3
reactant | hydroxylamine | 2 mmol, 0.20 g | NO | H3NO
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-chlorophenoxymethyl)-N-hydroxyaminomethylene-α-methoxyiminophenylacetamide | 0.41 g, 75.6% | ClC1=CC=C(OCC2=C(C=CC=C2)C(C(=O)N=CNO)=NOC)C=C1 | C17H16ClN3O4
